US05648270
Fluorescent bipyridyl indicators are prepared using synthetic methods that are entirely analogous to those described in Example 3, excepting that the starting material is a bipyridyl carboxylic acid such as 2,2'-bipyridine-4,4'-dicarboxylic acid (Aldrich Chemical Company).

reactant | bipyridyl carboxylic acid | N1=C(C(=CC=C1)C(=O)O)C1=NC=CC=C1 | C11H8N2O2
reactant | 2,2'-bipyridine-4,4'-dicarboxylic acid | N1=C(C=C(C=C1)C(=O)O)C1=NC=CC(=C1)C(=O)O | C12H8N2O4
product | bipyridyl | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
